US04593095
1,3-dipropyl-8-(2-amino-4-chlorophenyl)xanthine was synthesized by a modification of the method of Pfleiderer and Kempter (Ang Int. Ed. 6:259-260, 1967). 2-nitro-4-chlorobenzoic acid 0.02 mol) was dissolved in 30 ml of methanol. 1,3-dipropyl-5-nitroso-6-aminouracil (0.01 mol) was added with stirring, followed by 0.2 mol diisopropylcarbodiimide (DICD).

reactant | 2-nitro-4-chlorobenzoic acid | 0.02 mol | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)Cl | C7H4ClNO4
reactant | 1,3-dipropyl-5-nitroso-6-aminouracil | 0.01 mol | C(CC)N1C(=O)N(C(=O)C(=C1N)N=O)CCC | C10H16N4O3
reactant | diisopropylcarbodiimide | 0.2 mol | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | methanol | 30 ml | CO | CH4O
product | 1,3-dipropyl-8-(2-amino-4-chlorophenyl)xanthine | Yield was 2.1% | C(CC)N1C(=O)N(C=2N=C(NC2C1=O)C1=C(C=C(C=C1)Cl)N)CCC | C17H20ClN5O2
